* File: SA.pex.netlist.pex
* Created: Sun Jun 28 08:14:23 2026
* Program "Calibre xACT"
* Version "v2019.2_26.18"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_SA_VSS 2 5 7 12 15 30 32 43 50
c45 50 0 0.0173234f
c46 43 0 0.00233731f
c47 32 0 0.0069876f
c48 15 0 0.00825641f
c49 7 0 0.00789349f
c50 2 0 0.0385275f
r51 52 53 72.2631
r52 51 52 90.9117
r53 50 64 13.5563
r54 50 53 88.5806
r55 47 48 88.5806
r56 46 47 72.2631
r57 43 59 13.5563
r58 43 46 88.5806
r59 38 39 5.82974
r60 37 38 0.23319
r61 36 37 6.52931
r62 35 36 7.22888
r63 34 35 4.19742
r64 32 39 3.26466
r65 32 50 96.0901
r66 30 34 4.19742
r67 29 30 4.19742
r68 28 29 4.19742
r69 27 28 7.22888
r70 26 27 6.52931
r71 25 26 4.89698
r72 24 25 4.19742
r73 18 24 0.23319
r74 18 43 96.0901
r75 15 64 15.9139
r76 12 15 0.277778
r77 10 59 15.9139
r78 7 10 0.277778
r79 2 51 62.9389
r80 2 48 65.2699
r81 2 30 9.65625
r82 2 5 19.2857
.ends

.subckt PM_SA_SAEN 2 5 7 10 15 22 23 36 41
c64 41 0 0.00133236f
c65 36 0 0.00371791f
c66 23 0 0.00166529f
c67 22 0 0.00686834f
c68 10 0 0.0888224f
c69 5 0 0.00330108f
c70 2 0 0.0928781f
r71 28 41 19.38
r72 24 25 44.306
r73 23 36 19.38
r74 22 25 8.16164
r75 22 23 19.535
r76 18 24 6.99569
r77 18 41 19.535
r78 13 36 12.9959
r79 13 15 27.8572
r80 10 13 30
r81 5 28 10.0423
r82 5 7 27.8572
r83 2 5 30
.ends

.subckt PM_SA_SENSEB 2 7 9 10 13 14 15 18 19 22 25 33 34 38 43 48
c69 48 0 3.33478e-19
c70 43 0 1.952e-19
c71 38 0 5.22363e-19
c72 33 0 4.575e-19
c73 25 0 1.28319e-19
c74 22 0 0.00281828f
c75 19 0 7.71317e-19
c76 18 0 4.15339e-19
c77 14 0 0.0048832f
c78 13 0 3.82949e-19
c79 9 0 0.0053191f
c80 2 0 0.0732098f
r81 43 46 4.19742
r82 40 41 3.96423
r83 39 40 2.56509
r84 38 39 1.63233
r85 37 48 0.777784
r86 37 41 0.23319
r87 36 38 4.19742
r88 33 34 3.26466
r89 29 48 0.777784
r90 29 33 3.03147
r91 27 28 3.73104
r92 26 46 0.107873
r93 26 27 3.49785
r94 25 36 1.02627
r95 25 28 2.56509
r96 21 24 20.7539
r97 21 22 19.38
r98 19 48 0.202133
r99 19 24 4.89698
r100 18 34 19.38
r101 15 18 0.314815
r102 14 18 0.314815
r103 13 43 19.38
r104 10 13 0.314815
r105 9 13 0.314815
r106 5 22 9.45157
r107 5 7 19.2857
r108 2 5 38.5714
.ends

.subckt PM_SA_VDD 2 7 8 11 12 13 16 28 30 48
c36 48 0 0.0124581f
c37 30 0 0.00775224f
c38 16 0 0.00134553f
c39 12 0 0.00559601f
c40 11 0 9.78711e-19
c41 7 0 0.00541169f
c42 2 0 0.0263956f
r43 48 60 13.2616
r44 41 55 13.2616
r45 30 48 9.65625
r46 30 48 96.0901
r47 28 30 6.29612
r48 18 28 6.29612
r49 18 41 96.0901
r50 16 60 15.9139
r51 13 16 0.314815
r52 12 16 0.314815
r53 11 55 15.9139
r54 8 11 0.314815
r55 7 11 0.314815
r56 5 48 62.9389
r57 5 41 62.9389
r58 2 5 19.2857
.ends

.subckt PM_SA_SENSE 2 5 7 9 10 13 14 15 18 23 27 29 30 35 41 45
c68 45 0 3.92349e-19
c69 41 0 5.77479e-19
c70 35 0 1.07758e-19
c71 30 0 5.59381e-19
c72 29 0 1.23944e-19
c73 23 0 4.1988e-19
c74 18 0 3.58467e-19
c75 14 0 0.00497752f
c76 13 0 3.59425e-19
c77 9 0 0.00514753f
c78 5 0 0.00296191f
c79 2 0 0.0826804f
r80 41 43 4.4306
r81 41 42 19.38
r82 39 45 0.777784
r83 39 43 8.39483
r84 35 38 6.29612
r85 33 45 0.202133
r86 33 38 4.19742
r87 31 32 4.66379
r88 30 31 1.16595
r89 29 45 0.777784
r90 29 32 2.56509
r91 26 27 3.26466
r92 25 26 3.03147
r93 24 25 4.19742
r94 23 24 0.23319
r95 19 30 1.02627
r96 19 23 3.96423
r97 18 27 19.38
r98 15 18 0.314815
r99 14 18 0.314815
r100 13 35 19.38
r101 10 13 0.314815
r102 9 13 0.314815
r103 5 42 10.0423
r104 5 7 32.1429
r105 2 5 25.7143
.ends

.subckt PM_SA_BL 1 4 10
c16 10 0 0.00143018f
c17 4 0 0.00189459f
c18 1 0 0.00786803f
r19 4 10 19.38
r20 1 4 0.277778
.ends

.subckt PM_SA_NET0 1 2 5 6 7 10 13 16 17
c40 17 0 7.14012e-19
c41 16 0 0.00474906f
c42 13 0 3.77622e-19
c43 10 0 8.23429e-19
c44 6 0 0.00450788f
c45 5 0 4.84047e-19
c46 1 0 0.00419225f
r47 16 17 19.535
r48 12 16 37.7767
r49 12 13 19.535
r50 10 17 19.38
r51 7 10 0.314815
r52 6 10 0.314815
r53 5 13 19.38
r54 2 5 0.314815
r55 1 5 0.314815
.ends

.subckt PM_SA_BLB 1 4 10
c14 10 0 0.0014334f
c15 4 0 0.00979465f
r16 4 10 19.38
r17 1 4 0.277778
.ends

